US06310213B1
4-[2-(4-p-Tolyloxy-piperidin-1-yl)-ethanesulfonyl]-phenol
The title compound was prepared from 4-(2-chloro-ethanesulfonyl)-phenol and 4-p-tolyloxy-piperidine (prepared according to J. Med. Chem., 1978, 21, 309) in 59% yield as a white solid.

reactant | 4-(2-chloro-ethanesulfonyl)-phenol | ClCCS(=O)(=O)C1=CC=C(C=C1)O | C8H9ClO3S
reactant | 4-p-tolyloxy-piperidine | C1(=CC=C(C=C1)OC1CCNCC1)C | C12H17NO
product | 4-[2-(4-p-Tolyloxy-piperidin-1-yl)-ethanesulfonyl]-phenol | 59% yield | C1(=CC=C(C=C1)OC1CCN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O)C | C20H25NO4S
